US05683623
1-Bromo-4-heptoxybenzene
Quantities: anhydrous potassium carbonate (34.8 g, 0.25 mol), 1-bromoheptane (19.6 g, 0.11 mol) and 4-bromophenol (17.3 g, 0.1 mol). The experimental procedure was as described in Example 119.

reactant | potassium carbonate | 0.25 mol, 34.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromoheptane | 0.11 mol, 19.6 g | BrCCCCCCC | C7H15Br
reactant | 4-bromophenol | 0.1 mol, 17.3 g | BrC1=CC=C(C=C1)O | C6H5BrO
product | 1-Bromo-4-heptoxybenzene | BrC1=CC=C(C=C1)OCCCCCCC | C13H19BrO
